2173-02-03 07:37:00 Physician Resident Progress Note
Chief Complaint: 60F with APML transferred for SOB
   24 Hour Events:
   Received 1unit FFP and platelets O/N
   Started on IVF with lasix due to concern for tumor lysis
 MULTI LUMEN - START [**2173-2-2**] 04:02 PM
 BLOOD CULTURED - At [**2173-2-2**] 04:46 PM
 NON-INVASIVE VENTILATION - START [**2173-2-2**] 04:46 PM
 NON-INVASIVE VENTILATION - STOP [**2173-2-2**] 07:00 PM
 FEVER - 102.2
F - [**2173-2-2**] 04:00 PM
   Subjective: Dyspnea increased today with wheezing, occ cough
   Allergies:
   Penicillins Hives;
   Last dose of Antibiotics:
   Aztreonam 2g IV q8 day 3
   Vancomycin 1g IV q12 day 2
   Levofloxacin 750mg PO q48 day1
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-3**] 02:15 AM
   Other medications:
   ATRA day 1
   Dexamethasone 10mg IV q12
   Allopurinol 150mg PO daily
   Amitryptyline, levothyroxine, metoprolol, ranitidine
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, Dyspnea, Wheeze
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2173-2-3**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.4
C (101.1
   HR: 110 (92 - 119) bpm
   BP: 101/70(94) {101/67(78) - 162/78(94)} mmHg
   RR: 34 (23 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
    CVP: 16 (16 - 16)mmHg
   Total In:
                                                                    987 mL
                                                                  1,593 mL
   PO:
   TF:
   IVF:
                                                                    737 mL
                                                                  1,004 mL
   Blood products:
                                                                     70 mL
                                                                    529 mL
   Total out:
                                                                    750 mL
                                                                    790 mL
   Urine:
                                                                    750 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    237 mL
                                                                    803 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 572 (572 - 572) mL
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 98%
   ABG: 7.52/45/241/33/12
   Ve: 14.3 L/min
   PaO2 / FiO2: 482
   Physical Examination
   General Appearance: Anxious, Sitting upright
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : fine, bilateral,
   Wheezes : bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   13 K/uL
   7.3 g/dL
   245 mg/dL
   1.7 mg/dL
   33 mEq/L
   4.0 mEq/L
   43 mg/dL
   94 mEq/L
   136 mEq/L
   19.6 %
   9.0 K/uL
        [image002.jpg]
   CXR official read pending my impression bilateral effusions c/w
   pulmonary edema
   TTE:
   The left atrium and right atrium are normal in cavity size. Left
   ventricular wall thicknesses and cavity size are normal. Regional left
   ventricular wall motion is normal. Left ventricular systolic function
   is hyperdynamic (EF>75%). The estimated cardiac index is high
   (>4.0L/min/m2). The right ventricular cavity is borderline dilated with
   normal free wall contractility. The aortic valve leaflets appear
   structurally normal with good leaflet excursion. The number of aortic
   valve leaflets cannot be determined. There is no aortic valve stenosis.
   No aortic regurgitation is seen. The mitral valve leaflets are
   structurally normal. There is no mitral valve prolapse. No mitral
   regurgitation is seen. There is moderate pulmonary artery systolic
   hypertension. There is no pericardial effusion.
   IMPRESSION: Moderate pulmonary hypertension with borderline dilated
   right ventricle and normal RV systolic function. Hyperdynamic left
   ventricular systolic function. No structural valvular disease. Resting
   tachycardia.
   Micro
   [**2-2**] glucan and galactomannan pending
   2/16,2/18,[**2-2**] blood cx NGTD
   [**2-1**] urine cx negative
   [**2-2**] urine cx NGTD
   [**2-2**] CMV viral load pending
   [**2-2**] urine legionella ag pending
                             [**2173-2-2**]  04:21 PM
                             [**2173-2-2**]  04:38 PM
                             [**2173-2-2**]  08:46 PM
                             [**2173-2-3**]  02:22 AM
                             [**2173-2-3**]  05:30 AM
   WBC
   16.1
   18.0
   8.6
   9.0
   Hct
   23.6
   22.6
   19.2
   19.6
   Plt
   53
   25
   21
   13
   Cr
   1.2
   1.4
   1.6
   1.7
   TCO2
   38
   Glucose
   195
   245
   Other labs: PT / PTT / INR:18.5/33.9/1.7, ALT / AST:143/187, Alk Phos /
   T Bili:214/3.1, Differential-Neuts:5.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:140 mg/dL, Lactic Acid:2.3 mmol/L,
   LDH:1818 IU/L, Ca++:6.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   1. Respiratory failure, acute
   Likely due to pulmonary edema, suspect this is non-cardiogenic given
   preserved pump function on recent echo. Patient has received aggressive
   volume resuscitation since admission as well as numerous blood
   products. DDX broad consider transfusion reaction, leukostasis though
   WBC improved, pneumonia given fever, pulmonary hemorrhage given DIC. Sx
   started prior to receiving ATRA so can
t blame ATRA syndrome.
   Respiratory status improved yesterday following diuresis, but given
   concern for tumor lysis syndrome are limited in volume that can be
   removed. This AM, breathing is somewhat more labored. Suspect wheezing
   is fluid related.
   --Patient tolerated CPAP yesterday, would resume today. Follow
   respiratory status closely with repeat ABG this AM
   --Continue levo/aztreonam/vancomycin for broad coverage pending further
   cx data
   --Follow up cultures, reculture if febrile
   --CXR c/w fluid overload, but would pursue CT chest when stabilized to
   assess in more detail for evidence of pulmonary infection
   --Holding off on bronchoscopy, consider when patient intubated
   2. Elevated Cr
   Renal thinks NOT likely tumor lysis. Consider interstitial nephritis in
   setting of tumor lysis, but urine eosinophils negative. Would repeat
   urine electrolytes in setting of incr Cr. FeUrea ~53% using yesterday
   AM
s numbers but this was prior to more recent rise in Cr. Would spin
   urine for renal review. Nephrology recommendations appreciated. Discuss
   bicarbonate plans with both oncology and nephrology.
   3. APML with DIC
   Starting ATRA today per oncology. Monitor for signs of ATRA syndrome.
   Continue steroids per oncology. No evidence of significant gross
   bleeding at this time.
   --Follow CBC, DIC and tumor lysis labs q4 hours
   --Transfuse platelets>50, cryoglobulin for fibrinogen<100, goal INR
   ~1.5. Transfuse Hct>25
   --Continue allopurinol (reviewing dose with consultant teams) and
   continue IVF for now to maintain good urine output target 100cc/hr or
   per oncology recs
   --Management per oncology
   4. Febrile neutropenia
   Uncertain source at this time, though given SOB highest suspicion is
   for pulmonary etiology with workup as above. Also note that patient has
   PICC line. No GI symptoms suggestive of C. difficile colitis but f/u
   toxin assay. Cultures pending, reculture if febrile continuing
   antibiotics as above. Do not think she requires antifungal coverage at
   this time, glucan and galactomannan pending.
   5. Elevated LFTs
   Modestly improved today without specific intervention. [**Month (only) 60**] be
   medication effect (note that hydroxyurea can cause elevated
   transaminases), disease-related, or infection (e.g. viral etiology such
   as CMV or candidiasis). Hepatitis serologies unremarkable, recent
   negative liver ultrasound. Infectious workup as above, will follow
   daily LFTs for now. Holding statin in setting of elevated LFTs.
   ICU Care
   Nutrition: NPO pending ?intubation requirement
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2173-2-2**] 04:02 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2 blocker
   VAP:  n/a
   Communication:  with family
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Correct: A+P should say interstitial nephritis in setting of ANTIBIOTIC
   use
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 435**] [**Last Name (NamePattern1) 436**], MD
   on:[**2173-2-3**] 12:29 ------

2173-02-03 09:27:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2173-2-2**] 04:46 PM
 NON-INVASIVE VENTILATION - START [**2173-2-2**] 04:46 PM
 NON-INVASIVE VENTILATION - STOP [**2173-2-2**] 07:00 PM
 FEVER - 102.2
F - [**2173-2-2**] 04:00 PM
   Overnight:
   Did well on BiPAP intermittently overnight.  Received blood products
   and volume overnight due to low counts and risk of tumor lysis
   syndrome.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-2**] 08:15 PM
   Aztreonam - [**2173-2-3**] 05:46 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-3**] 08:11 AM
   Other medications:
   metoprolol, allopurinol, levothyroxine, H2B, SQI, dexamethasone 10mg IV
   q 12h, cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever
   Cardiovascular: No(t) Chest pain, Tachycardia
   Respiratory: Cough, Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia, Coagulopathy
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2173-2-3**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.3
C (101
   HR: 105 (92 - 119) bpm
   BP: 129/73(87) {101/67(78) - 162/78(94)} mmHg
   RR: 24 (23 - 38) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
   CVP: 16 (16 - 16)mmHg
   Total In:
                                                                    987 mL
                                                                  2,102 mL
   PO:
   TF:
   IVF:
                                                                    737 mL
                                                                  1,214 mL
   Blood products:
                                                                     70 mL
                                                                    827 mL
   Total out:
                                                                    750 mL
                                                                    965 mL
   Urine:
                                                                    750 mL
                                                                    965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    237 mL
                                                                  1,137 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 572 (572 - 572) mL
   PS : 10 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: 7.52/45/241/33/12
   Ve: 14.3 L/min
   PaO2 / FiO2: 482
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : about halfway up
   (somewhat improved from yesterday), Wheezes : scant), sitting upright
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   13 K/uL
   245 mg/dL
   1.7 mg/dL
   33 mEq/L
   4.0 mEq/L
   43 mg/dL
   94 mEq/L
   136 mEq/L
   19.6 %
   9.0 K/uL
        [image002.jpg]
                             [**2173-2-2**]  04:21 PM
                             [**2173-2-2**]  04:38 PM
                             [**2173-2-2**]  08:46 PM
                             [**2173-2-3**]  02:22 AM
                             [**2173-2-3**]  05:30 AM
   WBC
   16.1
   18.0
   8.6
   9.0
   Hct
   23.6
   22.6
   19.2
   19.6
   Plt
   53
   25
   21
   13
   Cr
   1.2
   1.4
   1.6
   1.7
   TCO2
   38
   Glucose
   195
   245
   Other labs: PT / PTT / INR:18.5/33.9/1.7, ALT / AST:143/187, Alk Phos /
   T Bili:214/3.1, Differential-Neuts:5.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:140 mg/dL, Lactic Acid:2.3 mmol/L,
   LDH:1818 IU/L, Ca++:6.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: fibrinogen 140
   Assessment and Plan
   60-year-old woman with respiratory failure and acute renal failure in
   the setting of a new diagnosis of APML and DIC with large blood product
   requirement.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
          this is most likely related to noncardiogenic pulmonary
   edema -- TRALI, infection, leukostasis, and other are all in the
   differential diagnosis.  She has a mildly elevated CVP (~15) at
   present, but may have some decoupling of the right and left ventricle
   due to pre-existing pulmonary hypertension (?leukostasis).
          CXR findings make PE much less likely
          cover for nosocomial and atypical pneumonia
          check influenza DFA, CMV, etc.
          she is also obviously at risk for ATRA syndrome, although
   this began *prior* to ATRA dosing
          we will hold off on further attempts at diuresis for now,
   since further acute renal failure will make treatment of primary
   process (APML) more challenging.
          Low threshold to intubate her, although she does not
   clinically require it at present: we will try to give her two hours on
   non-invasive mask ventilation, followed by one hour off.  We may be
   able to successfully do this for a couple of days, given how well she
   has tolerated it so far.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   -- treatment per BMT (ATRA today, ongoing steroids)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
   -- related to APML
   -- serial labs today
   -- product support as needed
 this is key
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -- cultures pending
   -- antibiotics as above
 NEUTROPENIA
   -- neutropenic precautions
 LFT abnormalities
   -- etiology likely multifactorial; follow for now
 ACUTE RENAL FAILURE
   n        her creatinine is rising quite markedly: ?DIC
   ?hypoperfusion   ?med effect.  A little early for AIN
   n        suspect that this is a mix of hypoperfusion, microangiopathy,
   and tumor lysis.  [**Month (only) 60**] need evaluation for AIN, etc.
   n        she is at risk for developing full-blown tumor lysis syndrome,
   and we will monitor labs for now.  If renal function worsens and she
   cannot receive allopurinol, may need rasburicase.
          -we will consult renal. I do not suspect that she has left
   heart failure
 rather, that she has capillary leak.  In this setting,
   her long-term survival is determined by her ability to receive adequate
   chemotherapy, which is much more dependent on her kidney function than
   on her pulmonary function.  Therefore, I would favor being as
   [**Location (un) 1050**]-protective as possible in this situation, even if it means she
   requires intubation
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:  Regular insulin sliding scale, Comments: tighten
   glucose control
   Lines:
   Multi Lumen - [**2173-2-2**] 04:02 PM
   Prophylaxis:
   DVT: Boots(no heparin at present given thrombocytopenia)
   Stress ulcer: H2 blocker
   VAP: n/a
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Discussed with patient, renal team, and oncology team in detail.
   Code status: Full code
   Disposition :ICU
   Total time spent: 90 min
   Patient is critically ill

2173-02-04 07:24:00 Physician Resident Progress Note
Chief Complaint: 60F with [**Hospital 1058**] transferred from floor due to
   respiratory distress
   24 Hour Events:
   Cr continued to rise, stable now ~1.9. Seen by renal, do not think
   tumor lysis ?ATN versus meds versus tumor infiltration
   Continued on CPAP intermittently
   Had ABI yesterday for ?cool LLE
 but is baseline per patient, prelim
   nl study
   Transfusions: RBC 1 yesterday + 1 this AM; Plts 2 yesterday + 1 this
   AM; FFP 2; Cryo 0.
   Subjective:
   Following pre-rounding patient c/o increased SOB
   Allergies:
   Penicillins Hives;
   Last dose of Antibiotics:
   Aztreonam 2g IV q8 day 4
   Vancomycin 1g IV q12 day 3
   Levofloxacin 750mg PO q48 day2
   Other medications:
   ATRA day 2
   Dexamethasone 10mg IV q12
   Allopurinol 150mg PO daily
   Amitryptyline, levothyroxine, metoprolol, ranitidine
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain, mild pleuritic chest discomfort
   Respiratory: Cough, No(t) Dyspnea
   Flowsheet Data as of  [**2173-2-4**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.5
C (97.7
   HR: 82 (70 - 113) bpm
   BP: 152/83(102) {73/59(62) - 152/84(102)} mmHg
   RR: 23 (19 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 15 (0 - 24)mmHg
   Total In:
                                                                  5,953 mL
                                                                  1,288 mL
   PO:
                                                                    280 mL
   TF:
   IVF:
                                                                  3,841 mL
                                                                  1,249 mL
   Blood products:
                                                                  1,772 mL
                                                                     40 mL
   Total out:
                                                                  2,495 mL
                                                                    540 mL
   Urine:
                                                                  2,495 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,458 mL
                                                                    748 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula at 4L
   Ventilator mode: Standby
   Vt (Spontaneous): 634 (505 - 658) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///32/
   Ve: 13.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Foley with some gross hematuria
   Labs / Radiology
   44 K/uL
   7.6 g/dL
   142 mg/dL
   1.9 mg/dL
   32 mEq/L
   3.9 mEq/L
   52 mg/dL
   94 mEq/L
   138 mEq/L
   21.2 %
   1.4 K/uL
        [image002.jpg]
   Vanco 19.5
   FeUrea ~55% 2/20
   Renal review of urine sediment: granular and broad cases, few rbcs,
   nondysmorphic wbcs, cocci
   CXR bilateral patchy opacities and pleural effusions, increased from
   prior
   Micro
   [**2-2**] glucan and galactomannan pending
   [**2-2**] respiratory viral antigen negative, cx pending
   2/16,2/18,[**2-2**] blood cx NGTD
   [**2-1**] urine cx negative
   [**2-2**] urine cx NGTD
   [**2-2**] CMV viral load pending
   [**2-2**] urine legionella ag pending
                             [**2173-2-2**]  04:38 PM
                             [**2173-2-2**]  08:46 PM
                             [**2173-2-3**]  02:22 AM
                             [**2173-2-3**]  05:30 AM
                             [**2173-2-3**]  09:54 AM
                             [**2173-2-3**]  02:23 PM
                             [**2173-2-3**]  07:52 PM
                             [**2173-2-3**]  11:13 PM
                             [**2173-2-4**]  02:50 AM
                             [**2173-2-4**]  05:54 AM
   WBC
   16.1
   18.0
   8.6
   9.0
   6.0
   4.2
   3.2
   2.7
   1.9
   1.4
   Hct
   23.6
   22.6
   19.2
   19.6
   18.0
   22.9
   20.8
   21.3
   21.3
   21.2
   Plt
   53
   25
   21
   13
   53
   21
   66
   61
   47
   44
   Cr
   1.2
   1.4
   1.6
   1.7
   1.7
   1.9
   1.7
   1.9
   1.9
   1.9
   Glucose
   195
   245
   142
   Other labs: PT / PTT / INR:15.1/29.3/1.3, ALT / AST:97/79, Alk Phos / T
   Bili:159/1.9, Differential-Neuts:5.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:3.3 g/dL, LDH:1101 IU/L, Ca++:7.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.5 mg/dL
   Assessment and Plan
   1. Respiratory failure, acute
   CXR shows worsening pulmonary edema in setting of IVF and multiple
   blood products. Due to  worsening renal function yesterday had been
   hesistant to aggressively diurese. However Cr appears to have
   stabilized will aim for I/O goal even to net positive 500cc; will treat
   with lasix as needed with frequent I/O checks during the day. [**Month (only) 60**] also
   have had component of leukostasis, though WBC actually low at this
   point. Remain concerned for possible pulmonary infection. Would
   continue to attempt to obtain sputum sample, though yield likely low
   now that patient has been on antibiotics for some time. Continue
   current antibiotic coverage for now and reculture if febrile. Repeat
   vancomycin trough in AM. If intubated, would pursue bronchoscopy though
   patient unlikely stable enough at this time. Continue CPAP as needed, 2
   hours on/off at time.
   2. Elevated Cr
   Cr ~stabilized. Elevation may be [**1-16**] microvascular disease. Renal
   thinks less likely tumor lysis as serum uric acid and urine uric acid
   excretion not as elevated as expected for tumor lysis. Interstitial
   nephritis possible given antibiotics but urine eos negative. FeUrea
   ~55% arguing against pre-renal state. Producing adequate volumes of
   urine so think obstruction is less likely. Continue IVFs with
   bicarbonate for now. Repeat urinalysis, goal pH is 6.5-7. Renal
   recommendations appreciated.
   3. APML with DIC
   On day 2 ATRA, no evidence of ATRA syndrome currently. Continue
   steroids per oncology.
   She does have some hematuria currently. DIC remains a concern, though
   fibrinogen in normal range without recent need for replacement and INR
   decreased at 1.4.
   --Follow CBC, DIC and tumor lysis labs q4 hours
   --Transfuse platelets>50, cryoglobulin for fibrinogen<100, goal INR
   ~1.5. Transfuse Hct>25
   --Uric acid continues to increase, will continue allopurinol and IVF
   for now to maintain good urine output target 100cc/hr or per oncology
   recs
   --Management per oncology
   4. Febrile neutropenia
   Uncertain source at this time, though given SOB highest suspicion is
   for pulmonary etiology with workup as above. Also note that patient has
   PICC line. No GI symptoms suggestive of C. difficile colitis but f/u
   toxin assay. Cultures pending, reculture if febrile continuing
   antibiotics as above. Do not think she requires antifungal coverage at
   this time, glucan and galactomannan pending.
   5. Elevated LFTs
   Modestly improved today without specific intervention. [**Month (only) 60**] be
   medication effect (note that hydroxyurea can cause elevated
   transaminases), disease-related, or infection (e.g. viral etiology such
   as CMV or candidiasis). Hepatitis serologies unremarkable, recent
   negative liver ultrasound. Infectious workup as above, will follow
   daily LFTs for now. Holding statin in setting of elevated LFTs.
   ICU Care
   Nutrition: NPO pending possible intubation
   Glycemic Control: sliding scale insulin
   Lines:
   Multi Lumen - [**2173-2-2**] 04:02 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: H2 blocker
   VAP:  n/a
   Communication:  with family
   Code status: Full code
   Disposition:ICU

2173-02-04 10:59:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.2
F - [**2173-2-3**] 09:00 AM
   Ongoing, well-tolerated intermittent use of non-invasive ventilation.
   Renal and oncology following closely.
   Received ATRA and chemo without incident
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: non-invasive ventilation
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2173-2-4**] 12:02 AM
   Vancomycin - [**2173-2-4**] 09:21 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-4**] 08:10 AM
   Other medications:
   allopurinol, synthroid, H2B, SQI, dexamethasone, ATRA, aztreonam,
   levofloxacin, vancomycin, idarubicin x 1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-4**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.9
C (96.6
   HR: 93 (70 - 101) bpm
   BP: 154/90(106) {73/59(62) - 154/92(108)} mmHg
   RR: 30 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
   CVP: 23 (0 - 25)mmHg
   Total In:
                                                                  5,953 mL
                                                                  2,225 mL
   PO:
                                                                    280 mL
   TF:
   IVF:
                                                                  3,841 mL
                                                                  1,927 mL
   Blood products:
                                                                  1,772 mL
                                                                    298 mL
   Total out:
                                                                  2,495 mL
                                                                  1,060 mL
   Urine:
                                                                  2,495 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,458 mL
                                                                  1,165 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 634 (505 - 658) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///32/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : to scapulae)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.6 g/dL
   44 K/uL
   142 mg/dL
   1.9 mg/dL
   32 mEq/L
   3.9 mEq/L
   52 mg/dL
   94 mEq/L
   138 mEq/L
   21.2 %
   1.4 K/uL
        [image002.jpg]
                             [**2173-2-2**]  04:38 PM
                             [**2173-2-2**]  08:46 PM
                             [**2173-2-3**]  02:22 AM
                             [**2173-2-3**]  05:30 AM
                             [**2173-2-3**]  09:54 AM
                             [**2173-2-3**]  02:23 PM
                             [**2173-2-3**]  07:52 PM
                             [**2173-2-3**]  11:13 PM
                             [**2173-2-4**]  02:50 AM
                             [**2173-2-4**]  05:54 AM
   WBC
   16.1
   18.0
   8.6
   9.0
   6.0
   4.2
   3.2
   2.7
   1.9
   1.4
   Hct
   23.6
   22.6
   19.2
   19.6
   18.0
   22.9
   20.8
   21.3
   21.3
   21.2
   Plt
   53
   25
   21
   13
   53
   21
   66
   61
   47
   44
   Cr
   1.2
   1.4
   1.6
   1.7
   1.7
   1.9
   1.7
   1.9
   1.9
   1.9
   Glucose
   195
   245
   142
   Other labs: PT / PTT / INR:15.1/29.3/1.3, ALT / AST:97/79, Alk Phos / T
   Bili:159/1.9, Differential-Neuts:5.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:3.3 g/dL, LDH:1101 IU/L, Ca++:7.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.5 mg/dL
   Fluid analysis / Other labs: Uric Acid 8.4
   Assessment and Plan
   60-year old woman with new diagnosis of APML complicated by
   leukostasis, respiratory failure, and acute renal failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          continue using non-invasive ventilation today:  try to do
   two hours on, then 30-60 minutes off
   -          low threshold to intubate, as reviewed in my note yesterday
   -          begin diuresis today, with a goal of even to negative 500
   -          continue treatment for possible (although somewhat unlikely)
   hospital-acquired pneumonia in the setting of neutropenia
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          this has stabilized
   -          although the uric acid has increased, her total WBC count
   has decreased substantially and so we may be getting past the window
   where tumor lysis is a major risk; this depends on what proportion of
   cells are marginated and unavailable in the preiphery.  Therefore, we
   will continue some fluids with bicarbonate but begin gentle diuresis
   today, as above
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   -          ATRA and idarubicin per oncology
   -
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
   -          product support as needed
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -          continue present rx and follow cx
 LIVER FUNCTION ABNORMALITIES
   -          likely multifactorial; follow for now
 NEUTROPENIA
   ICU Care
   Nutrition: NPO for now given pulmonary status
   Glycemic Control:  Regular insulin sliding scale, Comments: may need to
   tighten scale a bit.
   Lines:
   Multi Lumen - [**2173-2-2**] 04:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Issues discussed in detail with patient and with Dr. [**Last Name (STitle) 1078**].
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2173-02-05 07:44:00 Physician Resident Progress Note
Chief Complaint: 60F with new dx of APML
   24 Hour Events:
   Transfused RBCs with appropriate response
   Intermittent CPAP through day
   Labs stable
   Given lasix with goal of even I/O
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-4**] 09:21 AM
   Aztreonam - [**2173-2-5**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-4**] 10:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, No(t) Dyspnea, breathing improved
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2173-2-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 79 (65 - 101) bpm
   BP: 144/80(97) {135/74(89) - 154/93(109)} mmHg
   RR: 25 (18 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 67 kg
   Height: 63 Inch
    CVP: 13 (10 - 26)mmHg
   Total In:
                                                                  3,705 mL
                                                                  1,180 mL
   PO:
   TF:
   IVF:
                                                                  3,032 mL
                                                                  1,180 mL
   Blood products:
                                                                    673 mL
   Total out:
                                                                  3,380 mL
                                                                  1,160 mL
   Urine:
                                                                  3,380 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (420 - 538) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : ). Few expiratory
   wheezes
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   33 K/uL
   8.3 g/dL
   186 mg/dL
   1.8 mg/dL
   33 mEq/L
   4.0 mEq/L
   60 mg/dL
   95 mEq/L
   139 mEq/L
   22.5 %
   0.6 K/uL
        [image002.jpg]
   Ca 6.9, Mag 2.1, Phos 4.7, Uric acid 8.6
   INR 1.2, PTT 26.6
   Fibrinogen 235
   Vancomycin 21.6
   CXR no new CXR today
   Micro
   No sputum sample
   [**2-2**] Respiratory viral ag screen negative cx pending
   [**2-2**] urine legionella neg
   [**2-2**] CMV VL negative
   [**2-2**] blood cx NGTD
   [**2-2**] urine cx negative
   Preceding urine, blood cx negative/NGTD
                             [**2173-2-3**]  02:23 PM
                             [**2173-2-3**]  07:52 PM
                             [**2173-2-3**]  11:13 PM
                             [**2173-2-4**]  02:50 AM
                             [**2173-2-4**]  05:54 AM
                             [**2173-2-4**]  02:16 PM
                             [**2173-2-4**]  06:18 PM
                             [**2173-2-4**]  10:04 PM
                             [**2173-2-5**]  02:04 AM
                             [**2173-2-5**]  05:49 AM
   WBC
   4.2
   3.2
   2.7
   1.9
   1.4
   1.0
   0.8
   0.8
   0.8
   0.6
   Hct
   22.9
   20.8
   21.3
   21.3
   21.2
   19.6
   23.6
   23.7
   23.5
   22.5
   Plt
   21
   66
   61
   47
   44
   62
   56
   36
   39
   33
   Cr
   1.9
   1.7
   1.9
   1.9
   1.9
   1.9
   1.8
   1.8
   1.9
   1.8
   Glucose
   142
   186
   Other labs: PT / PTT / INR:13.9/26.1/1.2, ALT / AST:63/40, Alk Phos / T
   Bili:119/1.9, Differential-Neuts:5.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:235 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:3.3 g/dL, LDH:694 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.7
   mg/dL
   Assessment and Plan
   1. Respiratory failure, acute
   CXR shows worsening pulmonary edema in setting of IVF and multiple
   blood products. Due to  worsening renal function yesterday had been
   hesistant to aggressively diurese. However Cr appears to have
   stabilized will aim for I/O goal even to net positive 500cc; will treat
   with lasix as needed with frequent I/O checks during the day. [**Month (only) 60**] also
   have had component of leukostasis, though WBC actually low at this
   point. Remain concerned for possible pulmonary infection. Would
   continue to attempt to obtain sputum sample, though yield likely low
   now that patient has been on antibiotics for some time. Continue
   current antibiotic coverage for now and reculture if febrile. Repeat
   vancomycin trough in AM. If intubated, would pursue bronchoscopy though
   patient unlikely stable enough at this time. Continue CPAP as needed, 2
   hours on/off at time.
   2. Elevated Cr
   Cr ~stabilized. Elevation may be [**1-16**] microvascular disease. Renal
   thinks less likely tumor lysis as serum uric acid and urine uric acid
   excretion not as elevated as expected for tumor lysis. Interstitial
   nephritis possible given antibiotics but urine eos negative. FeUrea
   ~55% arguing against pre-renal state. Producing adequate volumes of
   urine so think obstruction is less likely. Continue IVFs with
   bicarbonate for now. Repeat urinalysis, goal pH is 6.5-7. Renal
   recommendations appreciated.
   3. APML with DIC
   On day 2 ATRA, no evidence of ATRA syndrome currently. Continue
   steroids per oncology.
   She does have some hematuria currently. DIC remains a concern, though
   fibrinogen in normal range without recent need for replacement and INR
   decreased at 1.4.
   --Follow CBC, DIC and tumor lysis labs q4 hours
   --Transfuse platelets>50, cryoglobulin for fibrinogen<100, goal INR
   ~1.5. Transfuse Hct>25
   --Uric acid continues to increase, will continue allopurinol and IVF
   for now to maintain good urine output target 100cc/hr or per oncology
   recs
   --Management per oncology
   4. Febrile neutropenia
   Uncertain source at this time, though given SOB highest suspicion is
   for pulmonary etiology with workup as above. Also note that patient has
   PICC line. No GI symptoms suggestive of C. difficile colitis but f/u
   toxin assay. Cultures pending, reculture if febrile continuing
   antibiotics as above. Do not think she requires antifungal coverage at
   this time, glucan and galactomannan pending.
   5. Elevated LFTs
   Modestly improved today without specific intervention. [**Month (only) 60**] be
   medication effect (note that hydroxyurea can cause elevated
   transaminases), disease-related, or infection (e.g. viral etiology such
   as CMV or candidiasis). Hepatitis serologies unremarkable, recent
   negative liver ultrasound. Infectious workup as above, will follow
   daily LFTs for now. Holding statin in setting of elevated LFTs.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: Glucose in
   200's 165-293
   Lines:
   Multi Lumen - [**2173-2-2**] 04:02 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2173-02-05 11:11:00 Physician Attending Progress Note
Chief Complaint: APML, respiratory failure, acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   On and off NIMV as planned.
   Blood product requirement seems to have decreased.
   Received Lasix.
   Reports being more comfortable.
   History obtained from Patient
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-4**] 09:21 AM
   Aztreonam - [**2173-2-5**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-4**] 10:04 PM
   Other medications:
   amitryptiline, allopurinol, metoprolol, levothyroxine, H2B, SQI,
   decadron 10 mg IV twice a day, levofloxacin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2173-2-5**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 78 (65 - 91) bpm
   BP: 141/80(95) {135/74(89) - 151/93(109)} mmHg
   RR: 26 (18 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 67 kg
   Height: 63 Inch
   CVP: 19 (0 - 26)mmHg
   Total In:
                                                                  3,705 mL
                                                                  2,447 mL
   PO:
   TF:
   IVF:
                                                                  3,032 mL
                                                                  1,909 mL
   Blood products:
                                                                    673 mL
                                                                    538 mL
   Total out:
                                                                  3,380 mL
                                                                  1,520 mL
   Urine:
                                                                  3,380 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    325 mL
                                                                    927 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (420 - 538) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 8.1 L/min
   Physical Examination
   General Appearance: Thin, Looks much more comfortable today.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.3 g/dL
   125 K/uL
   186 mg/dL
   1.8 mg/dL
   33 mEq/L
   4.0 mEq/L
   60 mg/dL
   95 mEq/L
   139 mEq/L
   22.5 %
   0.6 K/uL
        [image002.jpg]
                             [**2173-2-3**]  07:52 PM
                             [**2173-2-3**]  11:13 PM
                             [**2173-2-4**]  02:50 AM
                             [**2173-2-4**]  05:54 AM
                             [**2173-2-4**]  02:16 PM
                             [**2173-2-4**]  06:18 PM
                             [**2173-2-4**]  10:04 PM
                             [**2173-2-5**]  02:04 AM
                             [**2173-2-5**]  05:49 AM
                             [**2173-2-5**]  09:50 AM
   WBC
   3.2
   2.7
   1.9
   1.4
   1.0
   0.8
   0.8
   0.8
   0.6
   Hct
   20.8
   21.3
   21.3
   21.2
   19.6
   23.6
   23.7
   23.5
   22.5
   Plt
   66
   61
   47
   44
   62
   56
   36
   39
   33
   125
   Cr
   1.7
   1.9
   1.9
   1.9
   1.9
   1.8
   1.8
   1.9
   1.8
   Glucose
   142
   186
   Other labs: PT / PTT / INR:13.9/26.1/1.2, ALT / AST:63/40, Alk Phos / T
   Bili:119/1.9, Differential-Neuts:5.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:235 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:3.3 g/dL, LDH:694 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.7
   mg/dL
   Imaging: CXR pending
   Microbiology: Beta glucan and galactomannan (-)
   Assessment and Plan
   60-year-old woman with APML complicated by presumptive leukostasis,
   respiratory failure, DIC, and acute renal failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - hold IV fluids for now.
   - if urine output falls, add fluids back
   - diuresis today
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - seems to be past the window of greatest danger for tumor lysis
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   - ATRA, steroids
   - allopurinol for tumor lysis protection
   - frequent lab monitoring
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
   - product support as needed
   - frequent lab monitoring
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   - treat as if for nosocomial pneumonia
   - follow cultures
 LIVER FUNCTION ABNORMALITIES
   - likely multifactorial
   - improving
   ICU Care
   Nutrition:
   Comments: Resume oral diet with aspiration precautions
   Glycemic Control:  Regular insulin sliding scale, Comments: follow FSBS
   for now; we have decreased dextrose load substantially
   Lines:
   Multi Lumen - [**2173-2-2**] 04:02 PM
   Comments: Ask IV team to place PICC.  If successful, d/c CVL.
   Prophylaxis:
   DVT: Boots(no heparin due to thrombocytopenia)
   Stress ulcer: H2 blocker
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   discussed with patient, oncology, and renal.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45
   Patient is critically ill

2173-02-06 07:28:00 Physician Resident Progress Note
Chief Complaint: 60F with newly diagnosed [**Hospital 1058**] transferred to ICU due
   to increased respiratory distress
   24 Hour Events:
   PICC placed
   Did not require CPAP, did fine on nasal canula
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-4**] 09:21 AM
   Aztreonam - [**2173-2-6**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-6**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: no chills or sweats
   Ear, Nose, Throat: nasal congestion
   Respiratory: Cough, No(t) Dyspnea
   Flowsheet Data as of  [**2173-2-6**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 66 (66 - 98) bpm
   BP: 139/79(93) {126/73(88) - 158/96(109)} mmHg
   RR: 15 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 67 kg
   Height: 63 Inch
    CVP: 20 (0 - 184)mmHg
   Total In:
                                                                  3,893 mL
                                                                    304 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,020 mL
                                                                     64 mL
   Blood products:
                                                                    913 mL
   Total out:
                                                                  4,525 mL
                                                                  2,380 mL
   Urine:
                                                                  4,525 mL
                                                                  2,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -632 mL
                                                                 -2,077 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: orophaynx clear, sinuses nontender
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   53 K/uL
   9.2 g/dL
   186 mg/dL
   1.8 mg/dL
   33 mEq/L
   3.7 mEq/L
   64 mg/dL
   96 mEq/L
   141 mEq/L
   24.9 %
   0.3 K/uL
        [image002.jpg]
   Ca 7.7, Phos 5.2, Uric Acid 8.7
   Fibrinogen 105; INR 1.3, PTT 26.7
   Micro
   No new culture data
                             [**2173-2-4**]  10:04 PM
                             [**2173-2-5**]  02:04 AM
                             [**2173-2-5**]  05:49 AM
                             [**2173-2-5**]  09:50 AM
                             [**2173-2-5**]  10:10 AM
                             [**2173-2-5**]  02:30 PM
                             [**2173-2-5**]  06:00 PM
                             [**2173-2-5**]  09:42 PM
                             [**2173-2-6**]  02:58 AM
                             [**2173-2-6**]  06:01 AM
   WBC
   0.8
   0.8
   0.6
   0.5
   0.3
   0.4
   0.3
   0.3
   Hct
   23.7
   23.5
   22.5
   25.6
   25.9
   25.0
   24.9
   24.9
   Plt
   36
   39
   33
   125
   80
   64
   74
   57
   53
   Cr
   1.8
   1.9
   1.8
   1.7
   1.8
   1.8
   1.8
   1.8
   1.8
   Glucose
   186
   Other labs: PT / PTT / INR:15.0/26.7/1.3, ALT / AST:63/40, Alk Phos / T
   Bili:119/1.9, Differential-Neuts:5.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:105 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:3.3 g/dL, LDH:694 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.2
   mg/dL
   Assessment and Plan
   1. Respiratory failure, acute
   Dyspnea on floor likely due to volume overload in setting of blood
   products and IVF, perhaps with contribution from leukostasis or
   pulmonary infection. Currently maintaining good oxygen saturations with
   decreased O2 requirements. Has not required CPAP recently. CXR and exam
   show persistent pulmonary edema. Cr stabilized therefore feel
   comfortable with further diuresis today. Goal net negative 1-2 liters.
   Continue antibiotics for now as patient was febrile in setting of her
   respiratory distress. Still have been unable to obtain sputum culture.
   In setting of neutropenia, reluctant to discontinue her antibiotics as
   she has clinically improved on them. Vancomycin trough remains elevated
   this morning, would redose for trough<20.
   2. Elevated Cr
   Cr trending back down, urine output good. Uric acid relatively stable.
   Holding IVF for now in setting of diuresis, would resume if needed to
   maintain good urine flow (target 100cc/hr or per oncology).
   3. APML with DIC
   On day 3 ATRA, no evidence of ATRA syndrome currently. Continue
   steroids per oncology.
   Has some persistent hematuria, but improved today.
   Fibrinogen borderline
 may have low level DIC
   --Follow CBC, DIC and tumor lysis labs q4 hours
   --Transfuse platelets>50, cryoglobulin for fibrinogen<100, goal INR
   ~1.5. Transfuse Hct>25
   --Consider increasing uric acid dosing to 300mg daily
   --Management per oncology
   4. Febrile neutropenia
   Currently afebrile, hemodynamically stable.
   Uncertain source at this time, though given SOB highest suspicion is
   for pulmonary etiology with workup as above. Also note that patient has
   PICC line. No GI symptoms suggestive of C. difficile colitis but f/u
   toxin assay. Cultures pending, reculture if febrile continuing
   antibiotics as above. Do not think she requires antifungal coverage at
   this time, fungal markers negative (consider repeat galactomannan to
   see whether trending up)
   5. Elevated LFTs
   Improved today. [**Month (only) 60**] be medication effect (note that hydroxyurea can
   cause elevated transaminases), disease-related, or infection (e.g.
   viral etiology such as CMV or candidiasis). Hepatitis serologies
   unremarkable, recent negative liver ultrasound. Infectious workup as
   above, will follow daily LFTs for now. Holding statin in setting of
   elevated LFTs.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: glucose in
   150-180's
   Lines:
   PICC Line - [**2173-2-5**] 02:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:  :
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2173-02-06 09:18:00 Physician Attending Progress Note
Chief Complaint: 60 woman with [**Hospital 1058**] transferred from floor with resp
   distress, WBC 180K
   HPI:
   Avoided intubation, using BiPAP but not needed for more than 24 hr
   Getting ready to go back to floor
   24 Hour Events:
 PICC LINE - START [**2173-2-5**] 02:06 PM
 MULTI LUMEN - STOP [**2173-2-5**] 08:29 PM
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-4**] 09:21 AM
   Aztreonam - [**2173-2-6**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-6**] 01:00 AM
   Other medications:
   amitriptylline, lopressor, allopurinol, synthroid, ranitidine, RISS,
   dexamethasone, atra, levoflox, sevalimir
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-6**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 66 (66 - 98) bpm
   BP: 139/79(93) {126/73(88) - 158/96(109)} mmHg
   RR: 15 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.6 kg (admission): 67 kg
   Height: 63 Inch
   CVP: 20 (0 - 184)mmHg
   Total In:
                                                                  3,893 mL
                                                                    304 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,020 mL
                                                                     64 mL
   Blood products:
                                                                    913 mL
   Total out:
                                                                  4,525 mL
                                                                  2,380 mL
   Urine:
                                                                  4,525 mL
                                                                  2,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -632 mL
                                                                 -2,077 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (PMI Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bilateral)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): 3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   53 K/uL
   186 mg/dL
   1.8 mg/dL
   33 mEq/L
   3.7 mEq/L
   64 mg/dL
   96 mEq/L
   141 mEq/L
   24.9 %
   0.3 K/uL
        [image002.jpg]
                             [**2173-2-4**]  10:04 PM
                             [**2173-2-5**]  02:04 AM
                             [**2173-2-5**]  05:49 AM
                             [**2173-2-5**]  09:50 AM
                             [**2173-2-5**]  10:10 AM
                             [**2173-2-5**]  02:30 PM
                             [**2173-2-5**]  06:00 PM
                             [**2173-2-5**]  09:42 PM
                             [**2173-2-6**]  02:58 AM
                             [**2173-2-6**]  06:01 AM
   WBC
   0.8
   0.8
   0.6
   0.5
   0.3
   0.4
   0.3
   0.3
   Hct
   23.7
   23.5
   22.5
   25.6
   25.9
   25.0
   24.9
   24.9
   Plt
   36
   39
   33
   125
   80
   64
   74
   57
   53
   Cr
   1.8
   1.9
   1.8
   1.7
   1.8
   1.8
   1.8
   1.8
   1.8
   Glucose
   186
   Other labs: PT / PTT / INR:15.0/26.7/1.3, ALT / AST:63/40, Alk Phos / T
   Bili:119/1.9, Differential-Neuts:5.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:0.0 %, Eos:0.0 %, Fibrinogen:105 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:3.3 g/dL, LDH:694 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.2
   mg/dL
   Microbiology: No New Data
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
       mildly elevated, resolving
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
       Stable Creat, good urine output, high PO4 on sevelamir
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
       resolved after diuresis, continue to diurese
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
      wbc's improving
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
       resolved
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
        on vanco, aztreonam empirically for neutropenia
 NEUTROPENIA
   > Anemia
      Transfuse for Hct < 25
   ICU Care
   Nutrition:
   Comments: Full diet appropriate
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-5**] 02:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 45
   Patient is critically ill